US06903085B1
Step i: [1-(3,4-Dichlorobenzyl)-piperidin-4-yl]-methyl-amine
To a solution of 1-(3,4-Dichloro-benzyl)-piperidin-4-one (3.1 g) in dichloromethane (50 ml) and acetic acid (0.69 ml) was added methylamine (6 ml of a 1M solution in tetrahydrofuran). The mixture was stirred for 5 minutes before the addition of sodium triacetoxyborohydride (3 g) and the resulting mixture stirred for 72 hours. Sodium bicarbonate solution (100 ml) added and the mixture stirred vigorously for 5 minutes before extraction of the product with dichloromethane (2×200 ml). The organics were separated, bulked and dried, (MgSO4). Purification by Biotage® 40S eluting 10%MeOH/0.5% 800 ammonia/dichloromethane gave the sub-title compound (1.8 g).

reactant | 1-(3,4-Dichloro-benzyl)-piperidin-4-one | 3.1 g | ClC=1C=C(CN2CCC(CC2)=O)C=CC1Cl | C12H13Cl2NO
reactant | methylamine | CN | CH5N
reactant | sodium triacetoxyborohydride | 3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | acetic acid | 0.69 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | [1-(3,4-Dichlorobenzyl)-piperidin-4-yl]-methyl-amine | 1.8 g | ClC=1C=C(CN2CCC(CC2)NC)C=CC1Cl | C13H18Cl2N2
